US05378715
N-(3,4-Dimethyl-5-isoxazolyl)-5-[(3,3-diphenylpropyl)amino]-1-naphthalenesufonamide;
N-(3,4-Dimethyl-5-isoxazolyl)-5-[(5-phenylpentyl)amino]-1-naphthalenesufonamide, sodium salt.

reactant | N-(3,4-Dimethyl-5-isoxazolyl)-5-[(5-phenylpentyl)amino]-1-naphthalenesufonamide | CC1=NOC(=C1C)NS(=O)(=O)C1=CC=CC2=C(C=CC=C12)NCCCCCC1=CC=CC=C1 | C26H29N3O3S
reactant | sodium | [Na] | Na
product | N-(3,4-Dimethyl-5-isoxazolyl)-5-[(3,3-diphenylpropyl)amino]-1-naphthalenesufonamide | CC1=NOC(=C1C)NS(=O)(=O)C1=CC=CC2=C(C=CC=C12)NCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N3O3S
